US09303007B2
4-Chloro-2-((2S,4S)-4-methylpyrrolidin-2-yl)-5-(6-(4-(2-((2S,4S)-4-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazole
4N HCl in dioxane (5 mL) was added to a stirred solution of (2S,4S)-tert-butyl 2-(5-(6-(4-(2-((2S,4S)-1-(tert-butoxycarbonyl)-4-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-4-chloro-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate (30 mg, 0.041 mmol) in MeOH (1 mL) and the mixture was stirred at RT for 2 h, concentrated, and dried under high vacuum for 2 h. LC-MS retention time 3.31 min; calcd. for C32H34ClN6: 537 26 m/z Found 537.37 [M+H]. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min and an analysis time of 5 min where Solvent A was 5% methanol/95% water/0.1% TFA and Solvent B was 95% methanol/5% water/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | HCl | 4N | Cl | ClH
reactant | (2S,4S)-tert-butyl 2-(5-(6-(4-(2-((2S,4S)-1-(tert-butoxycarbonyl)-4-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-4-chloro-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 0.041 mmol, 30 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C=1NC(=CN1)C1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C1=C(N=C(N1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C)Cl | C42H49ClN6O4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | 4-Chloro-2-((2S,4S)-4-methylpyrrolidin-2-yl)-5-(6-(4-(2-((2S,4S)-4-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazole | ClC=1N=C(NC1C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1NC[C@H](C1)C)[C@H]1NC[C@H](C1)C | C32H33ClN6
